US05455242
Dissolve diisopropylamine (0.88 mL, 6.28 mmol) in tetrahydrofuran (7.5 mL). Cool in an ice bath and add, by dropwise addition, n-butyllithium (3.6 mL of a 1.6M solution in hexanes, 5.75 mmol). Stir for 15 minutes, then cool to -78° C. Add a solution of 3 -phenylpropionic acid, t-butyldimethylsilyl ester (1.33 g, 5.04 mmol) in tetrahydrofuran (5 mL). Stir for 45 minutes then add methyl bromoacetate (949 mg, 6.2 mmol). Stir for 3 hours, add saturated ammonium chloride (6 mL) and warm to room temperature. Partition between ethyl ether (75 mL) and water (10 mL). Dry (Na2SO4), evaporate the solvent in vacuo and purify by silica gel chromatography to give 3-phenyl-2-methylcarboxymethylpropionic acid, t-butyldimethylsilyl ester.

reactant | diisopropylamine | 6.28 mmol, 0.88 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3 -phenylpropionic acid, t-butyldimethylsilyl ester | 5.04 mmol, 1.33 g | C1(=CC=CC=C1)CCC(=O)O[Si](C)(C)C(C)(C)C | C15H24O2Si
reactant | methyl bromoacetate | 6.2 mmol, 949 mg | BrCC(=O)OC | C3H5BrO2
reactant | ammonium chloride | 6 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-phenyl-2-methylcarboxymethylpropionic acid, t-butyldimethylsilyl ester | C1(=CC=CC=C1)CC(C(=O)O[Si](C)(C)C(C)(C)C)(C)CC(=O)O | C18H28O4Si
